US06872731B2
4-Methoxypyridine-2-carboxylic acid methyl ester (17.6 g, 0.105 mol) was dissolved in methanol (100 ml) and cooled to 0° C. before adding hydrazine hydrate (21 ml) dropwise over 10 min. The mixture was then refrigerated at 4° C. for 16 h. The resulting solid was filtered, washed with cold methanol and dried to afford 4-methoxypyridine-2-carboxylic acid hydrazide (14.3 g, 81%) as a white powder. 1H NMR (360 MHz, CDCl3) δH 3.89 (3H, s), 4.55 (2H, br s), 7.12 (1H, dd, J 3 and 6), 7.50 (1H, d, J 3), 8.42 (1H, d, J 6), 9.79 (1H, br s).

reactant | 4-Methoxypyridine-2-carboxylic acid methyl ester | 0.105 mol, 17.6 g | COC(=O)C1=NC=CC(=C1)OC | C8H9NO3
reactant | hydrazine hydrate | 21 ml | O.NN
solvent | methanol | 100 ml | CO | CH4O
product | 4-methoxypyridine-2-carboxylic acid hydrazide | 14.3 g, 81% | COC1=CC(=NC=C1)C(=O)NN | C7H9N3O2
